Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
facial droop, speech difficulties
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ right handed, ___
speaking female with past medical history of HTN, TIAs 
consisting
of left sided numbness (last in ___, insomnia, and
depression, who is a transfer from ___ for further stroke
evaluation. She presented to ___ with right sided weakness
and right facial droop, last known normal 3:30PM on ___. She 
was
evaluated via telestroke w/NIHSS of 4 (2 for right facial
paralysis and 2 for language) and had a noncon CTH and a CTA H/N
which showed no evidence of LVO or intracranial hemorrhage. TPA
was not recommended as outside time window and NIHSS of 4. 
Vitals
at this time included BP 186/84, HR: 59, RR 15 ___ g95% on 
RA,
afebrile, glucose 88. She was transferred to ___ for further
evaluation.

History primarily through daughter as patient unable to recount
events (somnolent requiring multiple prompts to follow commands,
minimal verbal output). Daughter, who is a ___, received history from her siblings who were 
present
at time of events. Patient went to bed something between
1500-1600 and woke up at 1700. Upon waking, her family noticed
her gait was "off", she had a new right facial droop, her speech
was slurred, and wasn't oriented or able to carry on a
conversation. Prior to this event she was in her usual state of
health and had been babysitting her grandkids earlier in the AM. 

Baseline she is alert and oriented x4 and completes all her ADLs
and helps with babysitting and chores. Daughter notes that she
has been a little forgetful lately, but otherwise has not 
noticed
any neurologic changes. Daughter reports that her mom is
non-compliant with her medications and picks and choses when she
will take the medication and will sometimes cut meds in half.

There is a reported history of demyelinating disease, but when I
asked patient and daughter, they said the patient does not carry
this diagnosis.

Neurologic and general ROS is not reliable as patient is nodding
her head and saying yes to all questions, even if contradictory.
 
Past Medical History:
HTN
TIAs consisting of left sided numbness (last in ___
(previously seen at ___ and ___
insomnia
depression
MVA around ___
BPPV?
 
Social History:
___
Family History:
sister with strokes in her ___, her mother had strokes. No 
family
hx of seizures, clotting disorders. Family hx of cardiac disease
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
Vitals: Afebrile, HR 53, BP: 186/87 RR 18 satting 97% on RA

General: asleep, awakens briefly to tactile stimulus, appears
comfortable
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Sleepy requiring tactile stimulation to awaken,
will follow a few commands and answer a few questions before
closing eyes again, oriented x to person and ___ only. Unable
to relate history. Inattentive. Per daughter (speaking ___, language is slow and halting, comprehension is intact.
When repeating sentences she can repeat the first half but will
switch up the words in the second half. Able to name high
frequency objects only.  Unable to asess reading. Speech is
hypophonic and slurred. Able to follow both midline and
appendicular commands. There was no evidence of neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to threat. 
V: Facial sensation intact to light touch.
VII: right NLFF, right mouth droop with decreased activation.
Does not close ___ eyes tightly, no movement of bilateral 
eyebrows
when asked to raise them(states that she is lifting them)
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes to right

-Motor: Normal bulk and tone throughout. Slight right pronator
drift. No adventitious movements, such as tremor or asterixis
noted.
Patient unable to participate in full confrontational testing
RUE:Holds off bed for 10 seconds, drift noted
LUE:Holds off bed for 10 seconds
RLE: Holds off bed for 5 seconds
LLE: Holds off bed for 5 seconds

-Sensory: withdraws from noxious in all 4 extremities

-Reflexes: reflexes brisk ___, + pec jerk and cross adductors
bilaterally
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilon left, withdrawal on right

-Coordination: No intention tremor.  No dysmetria on FNF
bilaterally.

-Gait: Deferred.

DISCHARGE PHYSICAL EXAMINATION: 
Vitals: ___ 0343 Temp: 98.1 PO BP: 135/81 HR: 58 RR: 18 O2
sat: 97% O2 delivery: RA 
General: awake, sitting up eating breakfast
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. 
Pulmonary: Normal work of breathing.
Cardiac: Warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: ___ speaking but able to say a few 
words
in ___. Able to follow midline and appendicular commands in
___. Naming intact to high frequency objects, although
limited by language barrier. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. 
V: Facial sensation intact to light touch.
VII: right mouth droop with decreased activation.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes to right

-Motor: Normal bulk and tone throughout. No pronator drift No
adventitious movements, such as tremor or asterixis noted.

Able to hold all 4 extremities antigravity, although noticeably
weaker in R TA. 

-Sensory: deferred

-Reflexes: deferred

-Coordination: No intention tremor.  Slower FNF on R compared to
L. Orbiting L around R. 

-Gait: Deferred.

 
Pertinent Results:
ADMISSION LABS
--------------
___ 12:15AM BLOOD WBC: 7.4 RBC: 4.39 Hgb: 12.4 Hct: 37.6
MCV: 86 MCH: 28.2 MCHC: 33.0 RDW: 13.4 RDWSD: 41.___ 
___ 12:15AM BLOOD ___: 11.1 PTT: 31.9 ___: 1.0 
___ 12:15AM BLOOD Glucose: 102* UreaN: 14 Creat: 0.7 Na: 
142
K: 4.5 Cl: 105 HCO3: 22 AnGap: 15 
___ 12:15AM BLOOD ALT: 15 AST: 23 CK(CPK): 133 AlkPhos: 
120*
TotBili: 0.2 
___ 12:15AM BLOOD Lipase: 28 
___ 12:15AM BLOOD cTropnT: <0.01 
___ 12:15AM BLOOD Albumin: 4.2 Calcium: 9.5 Phos: 3.7 Mg:
2.0 
___ 12:15AM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG
Tricycl: NEG 

MRI 
1. Subacute infarct of the left basal ganglia without 
significant mass effect. 
No evidence of hemorrhagic transformation. 
2. Nonspecific T2 hyperintensities likely represent chronic 
ischemic vascular disease. 

TTE
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color
Doppler. There is normal left ventricular wall thickness with a 
normal cavity size. There is suboptimal
image quality to assess regional left ventricular function. 
Overall left ventricular systolic function is
normal. Quantitative biplane left ventricular ejection fraction 
is 64 %. There is no resting left
ventricular outflow tract gradient. Normal right ventricular 
cavity size with normal free wall motion.
The aortic sinus diameter is normal for gender with normal 
ascending aorta diameter for gender. The
aortic arch diameter is normal. The aortic valve leaflets (?#) 
are mildly thickened. There is no aortic
valve stenosis. There is mild [1+] aortic regurgitation. The 
mitral valve leaflets appear structurally
normal with no mitral valve prolapse. There is trivial mitral 
regurgitation. The tricuspid valve leaflets
appear structurally normal. There is moderate [2+] tricuspid 
regurgitation. The estimated pulmonary
artery systolic pressure is normal. There is no pericardial 
effusion.

___ 07:25AM BLOOD WBC-7.2 RBC-4.60 Hgb-12.9 Hct-39.0 MCV-85 
MCH-28.0 MCHC-33.1 RDW-13.5 RDWSD-42.0 Plt ___
___ 07:25AM BLOOD Plt ___
___ 07:25AM BLOOD Calcium-9.8 Phos-3.6 Mg-2.1
 
Brief Hospital Course:
Ms. ___ is a ___ right handed, ___ 
speaking female with past medical history of HTN, TIAs 
consisting of left sided numbness (last in ___, 
insomnia, and depression, who is a transfer from ___ for 
further stroke
evaluation after presenting with facial droop and speech 
difficulties. Her presenting NIHSS was 4. She was outside tPA 
window. On arrival to ___, she was noted to have decreased 
activation of right mouth, tongue deviation to right, mild right 
upper extremity weakness, slurred speech and difficulties with 
language fluency, and naming. She received MRI brain showing L 
basal ganglia infarct. CTA (done at ___ was reviewed and 
showed narrowing in the left M1 segment. She received TTE 
showing no embolic source. Etiology of stroke could be either 
cardioembolic or artery-artery. 

She was continued on home ASA 81 mg daily and atorvastatin daily 
(although there has been concern from family regarding 
medication compliance). She was also started on Plavix 75mg qd 
and this should be continued for 3 months. Physical therapy was 
consulted and recommended discharge home. She was monitored on 
cardiac telemetry and BP was allowed to autoregulate. She was 
later restarted on home amlodipine 10mg and increased home 
lisinopril to 40mg qd. Discontinued home HCTZ as patient had not 
been taking it at home anyway due to increased urination. 

TRANSITIONAL ISSUES
--------------------
[]increased home lisinopril to 40mg qd
[]Plavix 75mg daily was started and should be continued for 3 
months (until ___
[]Discontinued home HCTZ as patient had not been taking it at 
home anyway due to increased urination
[]Heart monitor was ordered to evaluate for ?cardioembolic 
source and results need to be followed up
[]follow up with Neurology and your primary care physician

___ Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL =125 ) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 
 
Medications on Admission:
1. Hydrochlorothiazide 25 mg PO DAILY 
2. ClonazePAM 1 mg PO QHS insomnia 
3. lifitegrast 5 % ophthalmic (eye) BID 
4. Systane Balance (propylene glycol) 0.6 % ophthalmic (eye) 
DAILY 
5. amLODIPine 10 mg PO DAILY 
6. Atorvastatin 80 mg PO QPM 
7. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
DAILY 
8. Lisinopril 20 mg PO DAILY 
9. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
10. Omeprazole 20 mg PO DAILY 
11. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
2.  Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  amLODIPine 10 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  ClonazePAM 1 mg PO QHS insomnia  
7.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
8.  lifitegrast 5 % ophthalmic (eye) BID  
9.  Omeprazole 20 mg PO DAILY  
10.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
DAILY  
11.  Systane Balance (propylene glycol) 0.6 % ophthalmic (eye) 
DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
#Left basal ganglia ischemic stroke
#Hypertension
#Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms ___,  

 You were hospitalized due to symptoms of facial droop and 
speech difficulties resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 high blood pressure
 high cholesterol
  
 We are changing your medications as follows:  
 Lisinopril dose was increased to 40mg daily
 Plavix 75mg daily was started
 Hydrochlorothiazide was stopped, as you were not consistently 
taking it at home

 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care 
physician.  

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  

 Your ___ Neurology Team  

 
Followup Instructions:
___